US04994486
A solution of 20.4 g (150 mmol) of o-anisaldehyde and 24 mL (239 mmol) of propane-1,3-dithiol in 300 mL of methylene chloride was cooled to 0° C. Boron trifluoride etherate (4.0 mL, 33 mmol) was added dropwise to the cooled solution and the reaction mixture was stirred at 0° C. for 0.5 h, then at ambient temperature for 18 h. The methylene chloride solution was washed with 2×100 mL of 10% aqueous sodium hydroxide solution, 100 mL of water and 100 mL of brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give 35.4 g (95% yield) of 2-(2'-methoxyphenyl)-1,3-dithiane, m.p. 127°-128° C.; 1H NMR (CDCl3) δ 1.8-2.0 (m, 1H), 2.1-2.25 (m, 1H), 2.87 (t, 1H), 2.92 (t, 1H), 3.05-3.2 (m, 2H), 3.85 (s, 3H), 5.69 (s, 1H), 6.87 (d, 1H), 6.97 (t, 1H), 7.25 (dt, 1 H), 7.59 (dd, 1H).

reactant | o-anisaldehyde | 150 mmol, 20.4 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | propane-1,3-dithiol | 239 mmol, 24 mL | C(CCS)S | C3H8S2
reactant | Boron trifluoride etherate | 33 mmol, 4.0 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-(2'-methoxyphenyl)-1,3-dithiane | 35.4 g, 95% yield | COC1=C(C=CC=C1)C1SCCCS1 | C11H14OS2
